US09145438B2
Step 6: 3-(3-(4-(tert-butyl)phenyl)ureido)propyl methanesulfonate
A solution of 1-(4-tert-butylphenyl)-3-(3-hydroxypropyl)urea (563 mg, 2.25 mmol) in methylene chloride (14 mL) was cooled at 0° C. and treated dropwise with triethylamine (0.376 mL, 2.70 mmol) followed by methanesulfonyl chloride (0.191 mL, 2.47 mmol) and the mixture was stirred at 0° C. until complete by TLC. After 30 minutes, the reaction was complete by TLC (100% EA). The reaction mixture was diluted with 15 mL CH2Cl2 and the organic phase was washed with 15 mL portions of 1N HCl, sat NaHCO3 and H2O and dried over MgSO4. The solution was filtered and concentrated to a viscous oil that was placed under high vacuum to yield the title compound (800 mg) as a colorless viscous oil that was stored in the freezer: MS (ESI+) for C15H24N2O4S m/z 329.1 (M+H)+; HPLC purity 93% (ret. time, 3.95 min).

reactant | 1-(4-tert-butylphenyl)-3-(3-hydroxypropyl)urea | 2.25 mmol, 563 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)NCCCO | C14H22N2O2
reactant | triethylamine | 2.70 mmol, 0.376 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.47 mmol, 0.191 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EA | CC(OCC)=O | C4H8O2
solvent | methylene chloride | 14 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-(4-(tert-butyl)phenyl)ureido)propyl methanesulfonate | 800 mg | CS(=O)(=O)OCCCNC(=O)NC1=CC=C(C=C1)C(C)(C)C | C15H24N2O4S
